US04174405
A solution of 182 g (1.50 moles) of 3,4-dimethylaniline, m.p. 49°-51° C. in 3000 ml (38 moles) of thiophene was treated with 226 ml (2.00 moles) of n-butyl nitrite. The solution was allowed to stand at room temperature for one week. Unreacted thiophene was removed by distillation with a steam bath. The residue was distilled at reduced pressure to give 75 g (27%) of 2-(3,4-xylyl)thiophene, b.p. 107°-122° (0.08 mm). Vapor phase chromatography showed the presence of about 2% of the xylidine starting material, removed by washing first with two 100-ml portions of 10% hydrochloric acid followed by two 150-ml portions of distilled water.

reactant | 3,4-dimethylaniline | 1.50 moles, 182 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | thiophene | 38 moles, 3000 ml | S1C=CC=C1 | C4H4S
reactant | n-butyl nitrite | 2.00 moles, 226 ml | N(=O)OCCCC | C4H9NO2
product | 2-(3,4-xylyl)thiophene | 75 g, 27% | C1(=CC(=C(C=C1)C)C)C=1SC=CC1 | C12H12S
